US04080330
A solution of 11.1 g of 3-phenylindoline in 60 ml of acetone was cooled to 0° C, 5.1 ml of chloroacetylchloride was added and the mixture poured into an ice cold solution of 10 g of sodium acetate in 50 ml of water. The mixture was then stirred for one hour at room temperature and the residual solid removed by filtration. Recrystallization from ethanol gave a yield of 13.0 g of the desired N-chloroacetyl-3-phenylindoline having a melting point of 76°-78° C.

reactant | 3-phenylindoline | 11.1 g | C1(=CC=CC=C1)C1CNC2=CC=CC=C12 | C14H13N
reactant | chloroacetylchloride | 5.1 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium acetate | 10 g | C(C)(=O)[O-].[Na+]
solvent | acetone | 60 ml | CC(=O)C | C3H6O
solvent | water | 50 ml | O | H2O
product | N-chloroacetyl-3-phenylindoline | yield of 13.0 g | ClCC(=O)N1CC(C2=CC=CC=C12)C1=CC=CC=C1 | C16H14ClNO
